US07678801B2
To a solution of 4,6-dichloro-2-(methylthio)-5-pyrimidinecarbaldehyde (10.0 g, 44.8 mmol) in THF (250 mL) was added 2,6-difluoroaniline (5.35 mL, 49.3 mmol, 1.1 eq) followed by Et3N (12.6 mL, 89.6 mmol, 2 eq). The reaction mixture was heated to 55° C. for about 22 h before concentrated. The slurry was re-dissolved in DCM (250 mL) and washed with H2O (2×100 mL), then concentrated and further washed with acetone (2×10 mL) to give 9.87 g (70%) of pure 4-chloro-6-[(2,6-difluorophenyl)amino]-2-(methylthio)-5-pyrimidinecarbaldehyde. LC-MS m/z 316 (M+H)+.

reactant | 4,6-dichloro-2-(methylthio)-5-pyrimidinecarbaldehyde | 44.8 mmol, 10.0 g | ClC1=NC(=NC(=C1C=O)Cl)SC | C6H4Cl2N2OS
reactant | 2,6-difluoroaniline | 49.3 mmol, 5.35 mL, 1.1 eq | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | Et3N | 89.6 mmol, 12.6 mL, 2 eq | CCN(CC)CC | C6H15N
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 4-chloro-6-[(2,6-difluorophenyl)amino]-2-(methylthio)-5-pyrimidinecarbaldehyde | 9.87 g, 70% | ClC1=NC(=NC(=C1C=O)NC1=C(C=CC=C1F)F)SC | C12H8ClF2N3OS
